US09428498B2
6-(3,6-Dihydro-2H-pyran-4-yl)pyridazin-3-carboxylic Acid
Methyl 6-chloropyridazine-3-carboxylate (1.00 g, 5.79 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydro-2H-pyran (1.22 g, 5.79 mmol), Pd(PPh3)4 (536 mg, 0.44 mmol) and Cs2CO3 (3.40 g, 10.4 mmol) were suspended in dioxane (8 mL) and water (8 mL) and heated in a microwave reactor at 125° C. for 30 min. 1M aq HCl (10 mL) was added, the precipitate was removed by filtration and the filtrate was concentrated in vacuo. The residue was passed through a silica pad eluting with 30% MeOH in DCM and concentrated in vacuo to give the title compound as a white solid (946 mg, 79.2%). LCMS (ES+): 207.1 [MH]+. HPLC: Rt 3.30 min, 49.9% purity.

reactant | Methyl 6-chloropyridazine-3-carboxylate | 5.79 mmol, 1.00 g | ClC1=CC=C(N=N1)C(=O)OC | C6H5ClN2O2
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydro-2H-pyran | 5.79 mmol, 1.22 g | CC1(OB(OC1(C)C)C=1CCOCC1)C | C11H19BO3
reactant | Cs2CO3 | 10.4 mmol, 3.40 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | HCl | 1M, 10 mL | Cl | ClH
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.44 mmol, 536 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 8 mL | O | H2O
product | 6-(3,6-Dihydro-2H-pyran-4-yl)pyridazin-3-carboxylic Acid | 946 mg, 79.2% | O1CCC(=CC1)C1=CC=C(N=N1)C(=O)O | C10H10N2O3
